US04764522
14.6 g of t-butyl [2-(3-methyl-4-nitropyridine-2-carboxamido)ethyl]carbamate were reacted with trifluoroacetic acid in an analogous manner to that described in Example 2, paragraph 2. The residue was converted into the hydrochloride which was recrystallized from methanol/ether, whereby there was obtained N-(2-aminoethyl)-3-methyl-4-nitropyridine-2-carboxamide hydrochloride as white crystals, m.p. 204°-205°.

reactant | t-butyl [2-(3-methyl-4-nitropyridine-2-carboxamido)ethyl]carbamate | 14.6 g | CC=1C(=NC=CC1[N+](=O)[O-])C(=O)NCCNC(OC(C)(C)C)=O | C14H20N4O5
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloride | Cl | ClH
product | N-(2-aminoethyl)-3-methyl-4-nitropyridine-2-carboxamide hydrochloride | Cl.NCCNC(=O)C1=NC=CC(=C1C)[N+](=O)[O-] | InChI=1S/C9H12N4O3.ClH/c1-6-7(13(15)16)2-4-11-8(6)9(14)12-5-3-10;/h2,4H,3,5,10H2,1H3,(H,12,14);1H
